US05972975
Acetic anhydride (2.0 mL, 21 mmol) and 500 mg (4.09 mmol) of a 4:1 mixture of 2-amino-3,4-dimethylpyridine and 2-amino-4,5-dimethylpyridine (prepared by the method of W. O. Siegl, J. Heterocycl. Chem. 1981, 18, 1613-1618) were heated in a 135-140° C. oil bath for 2 h. The solution was concentrated on a rotary evaporator and the residue was chromatographed twice on silica gel, eluted with 30-50% ethyl acetate in dichloromethane to give 71 mg of pure 2-acetamido-4,5-dimethylpyridine.

reactant | Acetic anhydride | 21 mmol, 2.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-3,4-dimethylpyridine | NC1=NC=CC(=C1C)C | C7H10N2
reactant | 2-amino-4,5-dimethylpyridine | NC1=NC=C(C(=C1)C)C | C7H10N2
product | 2-acetamido-4,5-dimethylpyridine | 71 mg | C(C)(=O)NC1=NC=C(C(=C1)C)C | C9H12N2O
